US09102637B2
(b) ethyl 2-(naphthalen-2-ylamino)-5-(thiophene-3-carboxamido)thiazole-4-carboxylate
To a solution of ethyl 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxylate (100 mg, 0.32 mmol) in pyridine (3 mL) was added 3-thiophene carbonyl chloride (61 mg, 0.42 mmol) at 0° C. The mixture was allowed to warm to rt and stirred overnight. The reaction was quenched with ice-water, and the mixture was extracted with EtOAc. The organic layer was washed with water, and dried over Na2SO4. The solvent was evaporated, and the resulting solids were collected and washed with EtOAc to give 55 mg (40% yield) of the titled compound.

reactant | ethyl 5-amino-2-(naphthalen-2-ylamino)thiazole-4-carboxylate | 0.32 mmol, 100 mg | NC1=C(N=C(S1)NC1=CC2=CC=CC=C2C=C1)C(=O)OCC | C16H15N3O2S
reactant | 3-thiophene carbonyl chloride | 0.42 mmol, 61 mg | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 2-(naphthalen-2-ylamino)-5-(thiophene-3-carboxamido)thiazole-4-carboxylate | 55 mg, 40% yield | C1=C(C=CC2=CC=CC=C12)NC=1SC(=C(N1)C(=O)OCC)NC(=O)C1=CSC=C1 | C21H17N3O3S2
